* C:\Users\Jas\Documents\School\ECSE 474\Repository\PSDOperating.asc
XU1 0 N002 N001 0 LOV LT1001
XU2 0 N003 N001 0 ROV LT1001
I1 0 N002 1µ
I2 0 N003 9µ
R1 N002 LOV 10k
R2 ROV N003 10k
C1 N002 LOV 10µ
C2 ROV N003 10µ
V1 N001 0 5 Rser=10M
RLoad2 LOV 0 10k
RLoad1 ROV 0 10k
.tran 0 60 20 1
.lib LTC.lib
.backanno
.end
